US07964613B2
(R)-3-[2-(Aminooxy)acetyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine
(S)-3-[2-(tert-Butoxycarbonylaminooxy)acetyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine can be prepared from hydrochloride of the compound prepared in Example 19-2 by using 2-(tert-butoxycarbonylaminooxy)acetic acid in the method of Example 56-1 instead of 2-methoxyacetic acid, and the protective group of the obtained compound can be removed according to the method described in Example 1-1, Step B to obtain the title compound.

reactant | (S)-3-[2-(tert-Butoxycarbonylaminooxy)acetyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine | C(C)(C)(C)OC(=O)NOCC(=O)N[C@@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Cl | C20H25ClN4O6S
reactant | hydrochloride | Cl | ClH
reactant | 2-(tert-butoxycarbonylaminooxy)acetic acid | C(C)(C)(C)OC(=O)NOCC(=O)O | C7H13NO5
reactant | 2-methoxyacetic acid | COCC(=O)O | C3H6O3
product | (R)-3-[2-(Aminooxy)acetyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine | NOCC(=O)N[C@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Cl | C15H17ClN4O4S
